.SUBCKT LT1720     1   2   8   5   7   
XCOMP  1 2 7 8 5  LT1720_MD
** nested subcircuit: LT1720_MD
.SUBCKT LT1720_MD  1 2 101 200 300
*
* input stage
*
* clamp to supplies
DIC1 1 200 DPC
DIC2 2 200 DPC
DIC3 300 1 DPC
DIC4 300 2 DPC
*
CIN_D 2 1 2.0000e-012
CIN_CM1 1 0 2.0000e-012
CIN_CM2 2 0 2.0000e-012
RIN 2 1 1.5000e+006
ROFF1 301 0 1.0002e+000 TC=1.0000e-005
ROFF2 302 0 1.0000e+000
IOFF1 0 301 DC 1
IOFF2 0 302 DC 1
EOFF 1 3 POLY(3) 301 302 1 0 2 0 0 1.0 2.3666e-004 2.3666e-004
ROFF 3 1 1.0000e+009
IBP 303 0 DC -2.3750e-006
RBP 303 0 1E6 TC=-1.8662e-002
GBP 1 0 303 0 1e-6
IBN 304 0 DC -2.6250e-006
RBN 304 0 1E6 TC=-1.8670e-002
GBN 2 0 304 0 1e-6
*
* internal hysteresis
ITRIP 300 353 2.0E-6
RTRIP 353 300 1.0E3
RNORM1 200 356 1.0E9
RNORM2 300 356 1.0E9
GNORM 300 357 101 356 1.0
CNORM 357 300 2.2E-11
RNORM3  357 300 1.0E3
DNORM1 357 358 DPC
VNORM1 358 300 DC 0.075
DNORM2 359 357 DPC
VNORM2 359 300 DC -0.075
GMULT 300 360 POLY(2) 357 300 353 300 0 0 0 0 -1.0E-3
RMULT 360 300 1.0E3
EHYST 5 2 360 300 1.0
RHYST 5 2 1.0E9
*
* delay stage
G1 0 20 3 5 1.0000e+001
R1 20 0 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 0 DC 2.2551e+002
V1N 22 0 DC -2.2551e+002
G2 0 23 20 0 1.0000e-003
R2 23 0 1.0000e+003
CD 23 0 1.9305e-012
*
* slewrate stage
G3 0 24 23 0 1.0000e-003
R3 24 0 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 0 DC 5.3283e+001
V3N 26 0 DC -3.2628e+001
G41 0 30 24 0 1.0000e-003
R41 30 0 1.0000e+003
G42 0 31 24 0 5.1642e-004
R42 31 0 1.0000e+003
D5 30 31 DX
CR 30 0 2.9070e-011
D4P 30 32 DX
D4N 33 30 DX
E4P 32 0 POLY(1) 200 300 -8.4351e-001 5.0000e-001
E4N 0 33 POLY(1) 200 300 -8.4351e-001 5.0000e-001
*
* phase shifter
G5 0 40 30 0 1.0000e-003
R5 40 0 1.0000e+003
LA 40 41 3.1831e-008
CA 41 0 1.9894e-013
*
* output stage
GO11 401 42 41 0 1.0202e-001
RO11 42 401 9.8018e+000
DO1 43 42 DOUT
GO12 401 43 41 0 2.4994e-002
RO12 43 401 4.0010e+001
VOUT1 101 43 DC 8.530021e-004
ROUT1 101 0 1.0000e+009
*
* supply characteristic
EGND 401 0 POLY(2) 200 0 300 0 0 5.0000e-001 5.0000e-001
IVDD 200 300 DC 4.0000e-003
FA1 51 0 VOUT1 -1
DAP 200 51 DPC
RGV 52 53 9.7531
EGV 51 52 POLY(1) 200 300 -0.8 1.0
DAN 53 300 DPC
*
.MODEL DX D (IS=1e-12 RS=0 XTI=0)
.MODEL DPC D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL D3P D (IS=1e-12 TT=4.1641e-010 CJO=0.3E-12 RS=0 XTI=0)
.MODEL D3N D (IS=1e-12 TT=1.7710e-009 CJO=0.3E-12 RS=0 XTI=0)
.MODEL DOUT D (IS=8.0e-7 RS=0 XTI=0.0 N=0.1 EG=0.1)
.ENDS LT1720_MD
** end nested subcircuit: LT1720_MD
.ENDS LT1720
